US04028404
4-cyclohexylcarbonylphenylacetonitrile
Crude α-bromo-p-tolylcyclohexyl ketone (17 g.), sodium cyanide (3 g.), dioxan (80 ml.) and water (20 ml.) were heated under reflux for 4 hours. The mixture when cold was poured into water and extracted with ether. Evaporation of the extracts followed by chromatography on silica gave a solid (1.5 g.) which was crystallised from light petroleum (b.p. 60°-80°) m.p. 102°-103°.

reactant | α-bromo-p-tolylcyclohexyl ketone | 17 g | BrCC1=C(C=CC=C1)C1CCC(CC1)C(=O)C1CCC(CC1)C1=C(C=CC=C1)CBr | C27H32Br2O
reactant | sodium cyanide | 3 g | [C-]#N.[Na+]
reactant | dioxan | 80 ml | O1CCOCC1 | C4H8O2
solvent | water | O | H2O
solvent | water | 20 ml | O | H2O
product | 4-cyclohexylcarbonylphenylacetonitrile | C1(CCCCC1)C(=O)C1=CC=C(C=C1)CC#N | C15H17NO
